US05185358
Step 3--Preparation of N-[2,6-bis(1-methylethyl)phenyl]-N'-(2-acetyl-5-undecyl-2H-1,2,4-triazol-3-yl)urea
A slurry of 1-acetyl-5-amino-3-undecyl-1,2,4-triazole (3.56 g, 12.7 mmol) was warmed until homogeneous. 2,6-Diisopropylphenyl isocyanate (2.71 mL, 12.7 mmol) was added and the resulting solution was heated under reflux for 15 hours. The resulting solution was cooled (20° C.) and the precipitate was removed by filtration. The filtrate was concentrated in vacuo and the resulting oil was chromatographed on silica (85:15 hexane:ethyl acetate) to yield 4.07 g (66.3%) of the title compound as a light yellow oil.

reactant | 1-acetyl-5-amino-3-undecyl-1,2,4-triazole | 12.7 mmol, 3.56 g | C(C)(=O)N1N=C(N=C1N)CCCCCCCCCCC | C15H28N4O
reactant | 2,6-Diisopropylphenyl isocyanate | 12.7 mmol, 2.71 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-(2-acetyl-5-undecyl-2H-1,2,4-triazol-3-yl)urea | 4.07 g, 66.3% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC=1N(N=C(N1)CCCCCCCCCCC)C(C)=O | C28H45N5O2
